US08138352B2
t-Butyl (3S)-3-methyl-5-oxo-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylic acid
Under a nitrogen gas atmosphere, iodomethane (26.0 mL, 59.28 g, 0.418 mol) and sodium hydride (oil content: 55%, 11.35 g, 0.260 mol) were sequentially added at room temperature to a solution of t-butyl 5-oxo-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylic acid (30.05 g, 0.104 mol) in N,N′-dimethylformamide (210 mL) with stirring. When the internal temperature reached to about 50° C., the mixture was cooled to 30° C. in an ice-water bath. Subsequently, the bath was changed to a water bath having an external temperature of 17° C., followed by stirring for 23 hours. The reaction mixture was poured into cold aqueous citric acid (a mixture of 10% citric acid (1 L) and ice (500 g)), followed by stirring for 30 minutes and extracting with ethyl acetate (800 mL, 500 mL). The organic layers were combined. The combined organic layer was washed with saturated brine, followed by drying over sodium sulfate anhydrate and filtration. The filtrate was evaporated to dryness under reduced pressure. The residue was purified through flash silica gel column chromatography (eluent; hexane:ethyl acetate=5:1 to 4:1), to thereby yield the title compound as white solid (10.63 g, 33.7%) as a high-polar isomer. In addition, t-butyl (3R)-3-methyl-5-oxo-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylic acid (14.91 g, 47.3%) was produced as a low-polar isomer.

reactant | iodomethane | 0.418 mol, 26.0 mL, 59.28 g | IC | CH3I
reactant | sodium hydride | 0.260 mol, 11.35 g | [H-].[Na+]
reactant | t-butyl 5-oxo-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylic acid | 0.104 mol, 30.05 g | C(C)(C)(C)C1N(C(CC1C(=O)O)=O)[C@H](C)C1=CC=CC=C1 | C17H23NO3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | citric acid | 1 L | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N′-dimethylformamide | 210 mL | CN(C)C=O | C3H7NO
product | t-Butyl (3S)-3-methyl-5-oxo-1-[(1R)-1-phenylethyl]pyrrolidine-3-carboxylic acid | 10.63 g, 33.7% | C(C)(C)(C)C1N(C(C[C@@]1(C(=O)O)C)=O)[C@H](C)C1=CC=CC=C1 | C18H25NO3
